US04044151
N-tert.-Butyl-N'-[4-(1-hydroxy-2-isopropylaminoethyl)phenyl]-sulfamide Hydrobromide
Infrared (pelletized with KBr): 840, 1145, 1330, 1395, 1520, 1615, 2800, 2980, 3160, 3300 cm-1. Prepared from N-[4-(N-benzyl-N-isopropylglycyl)phenyl]-N'-tert.-butylsulfamide hydrobromide.

reactant | KBr | [K+].[Br-]
reactant | N-[4-(N-benzyl-N-isopropylglycyl)phenyl]-N'-tert.-butylsulfamide hydrobromide | Br.C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C=C1)NS(=O)(=O)NC(C)(C)C)C(C)C
product | N-tert.-Butyl-N'-[4-(1-hydroxy-2-isopropylaminoethyl)phenyl]-sulfamide Hydrobromide | Br.C(C)(C)(C)NS(=O)(=O)NC1=CC=C(C=C1)C(CNC(C)C)O | InChI=1S/C15H27N3O3S.BrH/c1-11(2)16-10-14(19)12-6-8-13(9-7-12)17-22(20,21)18-15(3,4)5;/h6-9,11,14,16-19H,10H2,1-5H3;1H
